US04838923
Thionyl chloride (4.4 parts by volume) was added to 3.26 parts of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid, and the mixture was refluxed for 3 hours. After the reaction, the excess of thionyl chloride was removed under reduced pressure to give 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride. A solution of the resulting propionyl chloride in 10 parts by volume of ether was added dropwise under ice cooling to a solution of 3.34 parts of diethyl aminophosphonate in 20 parts by volume of ether. Ten minutes later, 1 part by volume of triethylamine was added dropwise. After the addition, the mixture was stirred at room temperature for 3 hours. The reaction mixture was washed with water, a saturated aqueous solution of sodium bicarbonate and water in this order. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 2.6 parts of a crude product. The crude product was recrystallized from ethyl acetate/ether to give 1.1 parts of the captioned compound. This compound had a melting point of 134.5° to 135° C., and its IR and NMR spectral data are shown in Table 1.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
product | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
